US08067408B2
1,1-Dimethylethyl 4-({2′-fluoro-5′-[({[3-(hydroxymethyl)phenyl]carbonyl}amino)methyl]-3-biphenylyl}methyl)-1-piperazinecarboxylate
To a solution of 1,1-dimethylethyl 4-{[5′-(aminomethyl)-2′-fluoro-3-biphenylyl]methyl}-1-piperazinecarboxylate (100 mg, 0.25 mmol) in DCM (2.5 mL) was added 3-(hydroxymethyl)benzoic acid (38 mg, 0.25 mmol), HBTU (0.104 g, 0.275 mmol), and Et3N (0.0351 mL, 0.25 mmol). The mixture was stirred at room temperature for 21 h. The reaction was quenched with H2O. The organic layer was separated, directly load onto silica gel cartridge and purified by CombiFlash chromatograph to afford the title compound 0.122 g (91%). LC-MS m/z 534 (M+H)+.

reactant | 1,1-dimethylethyl 4-{[5′-(aminomethyl)-2′-fluoro-3-biphenylyl]methyl}-1-piperazinecarboxylate | 0.25 mmol, 100 mg | NCC=1C=CC(=C(C1)C1=CC(=CC=C1)CN1CCN(CC1)C(=O)OC(C)(C)C)F | C23H30FN3O2
reactant | 3-(hydroxymethyl)benzoic acid | 0.25 mmol, 38 mg | OCC=1C=C(C(=O)O)C=CC1 | C8H8O3
reactant | HBTU | 0.275 mmol, 0.104 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 0.25 mmol, 0.0351 mL | CCN(CC)CC | C6H15N
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
product | 1,1-Dimethylethyl 4-({2′-fluoro-5′-[({[3-(hydroxymethyl)phenyl]carbonyl}amino)methyl]-3-biphenylyl}methyl)-1-piperazinecarboxylate | 0.122 g, 91% | FC1=C(C=C(C=C1)CNC(=O)C1=CC(=CC=C1)CO)C1=CC(=CC=C1)CN1CCN(CC1)C(=O)OC(C)(C)C | C31H36FN3O4
